US08026257B2
4-(1-Methyl-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-1H-indazol-5-yl)benzonitrile.
tert-Butyl 4-(((5-(4-cyanophenyl)-1-methyl-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (63 mg, 0.117 mmol) was dissolved in trifluoroacetic acid (25% in dichloromethane, 4 mL) and stirred at room temperature for 45 min. The reaction was concentrated, and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol to give 47.3 mg (92%) as a colorless film. 1H-NMR (CDCl3, 500 MHz) δ 7.98 (s, 1H), 7.85 (d, J=1.5 Hz, 1H), 7.70 (m, 4H), 7.35 (d, J=1.5 Hz, 1H), 7.25 (m, 4H), 7.17 (m, 1H), 4.72 (s, 2H), 3.93 (s, 3H), 3.48 (s, 2H), 2.83 (m, 2H), 2.69 (m, 2H), 2.11 (m, 2H), 1.81 (m, 2H), 1.78 (bs, 1H); 13C-NMR (CDCl3, 126 MHz) δ 145.7, 144.2, 138.5, 133.5, 132.7, 131.4, 128.4, 127.9, 127.8, 127.2, 126.24, 126.20, 121.2, 120.2, 119.1, 110.5, 79.5, 71.1, 42.7, 41.7, 38.2, 33.7. Mass spec.: 437.19 (MH)+. Accurate mass spec.: m/z 437.2354 [MH]+, Δ=2.9 ppm.

reactant | tert-Butyl 4-(((5-(4-cyanophenyl)-1-methyl-1H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.117 mmol, 63 mg | C(#N)C1=CC=C(C=C1)C=1C=C2C=NN(C2=C(C1)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C | C33H36N4O3
solvent | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(1-Methyl-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-1H-indazol-5-yl)benzonitrile | CN1N=CC2=CC(=CC(=C12)COCC1(CCNCC1)C1=CC=CC=C1)C1=CC=C(C#N)C=C1 | C28H28N4O
